Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
epistaxis
 
Major Surgical or Invasive Procedure:
1u pRBC on ___ pRBC on ___

 
History of Present Illness:
___ h/o HTN (on atenolol) and TIA who presents with recurrent 
nose bleed. Patient was seen at ___ yesterday for 
epistaxis and had a cauterization. Epistaxis resolved, but 
recurred today. Patient re-presented to ___, where 
his nose was packed. While at the OSH, he had an episode of 
"eyes rolling back and unresponsive" that was brief. He wasn't 
on monitor at time but noted to have Hr in ___ per report (no 
ECG available). He denies any prior syncopal episodes but notes 
to feeling sleepy after meals and while sitting in car and 
sleeps easily. Reportedly, patient had a 7 point hematocrit 
drop.

Patient denies any headaches. Is on aspirin but denies any other 
anticoagulation.

In the ED, initial VS were 96.3 58 129/70 18 98% NRB. HR 
remained in ___ while in ED.
Exam notable for Rhino rocket in left nare, no apparent 
pharyngeal bleeding.  
Labs showed: WBC 14, Hgb 7.1 (7.7 post transfusion), Cr 1.8, 
Lactate 1.8
ECG NSR with PR 176, narrow QRS, possible prior inferior 
infarct.
Received 1u prbc, ctx for TSS ppx, and home hydralazine for HTN. 
 
Transfer VS were 98.6 66 183/74 14 100% Nasal Cannula.  
Cardiology was consulted, who recommended stopping atenolol and 
consider outpatient holter to evaluate these "sleepy" episodes

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports that he has been taking 
400mg of ibuprofen daily for years as well as 325mg of aspirin 
daily (he stopped the aspirin 3 days ago out of concern for 
worsening bleeding). He has been having nosebleeds frequently 
for the last year, associated with bearing down and position 
changes. He typically is able to control the bleeding at home, 
but has had to visit ___ several times for packing. 
He is currently asymptomatic.   

 
Past Medical History:
-HTN
-TIA
-basal cell carcinoma removal from face
-CKD

 
Social History:
___
Family History:
Father with asthma. Mom's side of family with multiple strokes, 
mom died of CVA at ___. No other bleeding/clotting disorders 
known.   
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 98.0 degrees Fahrenheit, BP: 194/77 mmHg supine, HR 
61 bpm, RR 18 bpm, O2: 99 % on 2L NC. ~30 points SBP drop with 
orthostatics noted in nursing records.
Gen: Pleasant, calm. No acute distress.
HEENT: Pale, no icterus; crusted blood in nostrils
NECK: C-collar in place
CV: PMI in ___ intercostal space, mid clavicular line. RRR. 
normal S1,S2. No murmurs, rubs, clicks, or gallops
LUNGS: CTAB. No wheezes, rales, or rhonchi.
ABD: NABS. Soft, NT, ND. No HSM. Abdominal aorta was not 
enlarged by palpation. No abdominal bruits.
EXT: WWP, NO CCE. Full distal pulses bilaterally.
SKIN: No rashes/lesions, ecchymoses except as above.
NEURO: A&Ox3. CN ___ grossly intact.
PSYCH: Mood and affect was appropriate.

DISCHARGE PHYSICAL EXAM:
VS: 99 98.7 ___ 91-95%RA
___: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, clotted blood in posterior oropharynx without evidence of 
active bleeding
NECK: supple neck, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact
 
Pertinent Results:
ADMISSION LABS:
=================
___ 05:42AM BLOOD WBC-14.0* RBC-2.35* Hgb-7.1* Hct-22.2* 
MCV-95 MCH-30.2 MCHC-32.0 RDW-15.8* RDWSD-54.3* Plt ___
___ 05:42AM BLOOD Neuts-78.7* Lymphs-14.4* Monos-6.1 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-10.98* AbsLymp-2.02 
AbsMono-0.86* AbsEos-0.02* AbsBaso-0.02
___ 05:42AM BLOOD ___ PTT-25.9 ___
___ 05:42AM BLOOD Glucose-181* UreaN-59* Creat-1.8* Na-140 
K-4.2 Cl-109* HCO3-20* AnGap-15
___ 06:47AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.1 Cholest-118
___ 06:47AM BLOOD Triglyc-150* HDL-27 CHOL/HD-4.4 
LDLcalc-61 LDLmeas-71
___ 06:47AM BLOOD %HbA1c-5.1 eAG-100
___ 05:48AM BLOOD Lactate-1.8

MICRO:
=================
None

STUDIES:
=================
___ Imaging CHEST (PA & LAT) 
Bibasilar atelectasis.

___ Imaging CT HEAD W/O CONTRAST 
1. No acute intracranial process including hemorrhage.  No 
evidence of 
fracture or soft tissue swelling. 
2. Air-fluid in the sphenoid sinus and aerosolized debris in the 
left 
maxillary sinus may represent acute inflammatory process.  
Clinical 
correlation for acute sinusitis is recommended.  Additional 
paranasal sinus disease as described above. 

___-SPINE W/O CONTRAST 
1. No evidence of definite acute fracture.  2 mm well-corticated 
osteophyte of the inferior anterior C5 endplate with lucency is 
likely chronic and unlikely to represent new process given no 
prevertebral soft tissue swelling. 
2. Multilevel anterolisthesis and retrolistheses of the cervical 
spine, almost certainly degenerative in nature.  If there is 
high clinical suspicion for ligamentous injury, MRI would be 
more sensitive if there no contraindications. 
3. Multilevel degenerative changes with mild to moderate neural 
foraminal 
narrowing at C3-C4, C4-C5, C6-C7. 
4. A catheter terminates in the nasopharynx with secretions 
surrounding the catheter posteriorly. 

___ Cardiovascular TRANSTHORACIC ECHO 
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. Trivial mitral regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. There 
is no pericardial effusion. 
IMPRESSION: Normal biventricular size and systolic function. No 
pathologic valvular flow. Moderate pulmonary artery 
hypertension.  

DISCHARGE LABS:
=================
___ 09:00AM BLOOD WBC-12.5* RBC-2.56* Hgb-7.9* Hct-24.0* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-17.2* RDWSD-54.2* Plt ___
___ 09:00AM BLOOD Glucose-152* UreaN-36* Creat-2.1* Na-143 
K-3.9 Cl-106 HCO3-25 AnGap-16
___ 09:00AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.2
 
Brief Hospital Course:
Information for Outpatient Providers: ___ h/o hypertension (on 
atenolol) and TIA who presents with recurrent nose bleed 
requiring nasal packing and transfusion of 2 units prbc. After 
transfusion and with packing, patient's blood counts remained 
stable and there was no evidence of acute bleeding. Patient was 
started on antibiotics for toxic shock prophylaxis, and has been 
arranged with ENT follow-up to remove packing after ___ days.
While at ___, patient had 2 syncopal episodes. Neither of 
these 2 episodes was caught on telemetry, but bradycardia was 
reported in both cases. Electrophysiology was consulted, who 
thought that the clinical history was most consistent with 
vasovagal episodes (attributed to nasal packing and compounded 
by anemia). Patient was set up with ___ of Hearts monitor, 
and will follow-up as an outpatient. 

Patient's antihypertensives were adjusted during admission, as 
well. 

================
ACUTE PROBLEMS:
================

# Syncope:
Patient had one syncopal episode during nasal packing on ___ ___s another syncopal episode on ___. Electrophysiology was 
consulted, who noted that the episodes were likely to be 
vasovagal in nature, given that the episodes occurred after 
likely vagal-triggers (nose-packing, washing-up), were brief, 
and were associated with a prodrome (at least in the second 
case), and both occurring in the setting of anemia and 
orthostasis. There was no evidence of conduction disease on 
12-lead ECG and nothing revealing on telemetry (though, again, 
neither episode was captured on telemetry). Reportedly, patient 
has a life-long history of episodic, brief lightheadedness, that 
is not clearly consistent with a vasovagal process. Patient was 
discharged with ___ of Hearts monitor, and will follow-up as 
an outpatient.
Physical Therapy evaluated patient, and recommended discharge 
home with home ___.

# Epistaxis:
Recurrent epistaxis following cauterization of unclear etiology. 
Potentially related to daily NSAID and full dose aspirin use. 
Patient not on anticoagulation, but reportedly had significant 
drop in Hgb at OSH. Concern for posterior bleed given the degree 
of blood loss. Nasal packing with tamponade and hemostasis, 
though patient did have an episode of coughing up blood clot in 
ED. Low incidence of TSS after nasal packing (___), 
limited evidence supporting use of antibiotic prophylaxis, 
though commonly recommended. ENT offered recommendation to 
maintain nasal packing x5-7 days along with antibiotic 
prophylaxis. Patient was started on augmentin 875mg BID 
___, continue for 5 days following pack removal). Required 
2 units of packed red blood cells (one on ___, and one of 
___, and hemoglobin remained stable post-transfusion without 
evidence of ongoing epistaxis. ENT follow-up was arranged for 
patient for packing removal and further evaluation. Home aspirin 
and ibuprofen were discontinued.

# Bradycardia:
Syncopal episodes preceded by sinus bradycardia. No evidence of 
heart block on ECG. Bradycardia may have been a vagal reaction 
in setting of bleed. Home atenolol was discontinued given 
possible contribution to bradycardia, especially in the setting 
of chronic kidney disease. ___ of Hearts monitor arranged, as 
above. 

# Anemia:
Likely in setting of epistaxis. Received 1u prbc on ___, with 
improvement in hgb from 7.1 to 7.7. Hgb 6.3 on ___ with no 
evidence of acute blood loss. All cell lines down, may have some 
contribution from hemodilution. Additional transfusion of 1u 
pRBC on ___ with appropriate rise and stable hemoglobin. 
Discharge hemoglobin=7.9 (hematocrit=24.0).

# Leukocytosis:
Concern for possible aspiration in setting of recurrent nose 
bleed, though CXR without evidence of infiltrate.

# Hypertension:
Was previously on amlodipine and HCTZ, though not recently 
filled and patient only reports taking atenolol and hydralazine. 
Home atenolol was discontinued given concurrent bradycardia and 
renal disease. Home hydralazine was increased to 150mg TID and 
patient was started on amlodipine 10mg daily. Patient's blood 
pressure improved with this new regimen, but may need further 
titration as an outpatient. Consider transitioning from 
hydralazine to ACE-inhibitor ___ given chronic kidney 
disease. 

===============
CHRONIC ISSUES:
===============

# CKD: 
Recent baseline Cr ~2, likely hypertensive nephropathy, though 
concern for additional renal injury in the setting of NSAID use. 
Discontinued home ibuprofen and aspirin. Consider ___, as 
above.

# TIA:
Has a history of a prior TIA. A1c and lipid panel were within 
normal limits. Given ASCVD risk, started patient on 
high-intensity statin (atorvastatin 80 mg daily). Daily aspirin 
325mg discontinued due to bleeding. Please note that if aspirin 
is restarted, 81mg daily would be the appropriate dose as 
patient has no indication for full-dose ASA and is a high 
bleeding risk. 

====================
TRANSITIONAL ISSUES:
====================
[ ] STOPPED home Ibuprofen and aspirin (due to bleeding and CKD)
[ ] STOPPED home atenolol (due to bradycardia and CKD)
[ ] CHANGED home hydralazine: discharged on hydralazine 150 mg 
TID
[ ] STARTED amlodipine 10 mg daily
[ ] STARTED augmentin 875mg BID as prophylaxis for toxic shock 
___, rx through ___ ENT appointment)
[ ] Consider transitioning patient from hydralazine to ACEi or 
___, especially in light of chronic kidney disease
[ ] STARTED patient on atorvastatin 80mg qhs based on ASCVD 
___ risk of >50%.
[ ] ___ of Hearts set up on discharge, results to be sent to 
___ for review. Consider referral to cardiology if clinically 
indicated. 
[ ] If daily aspirin is restarted, aspirin 81mg would be the 
preferred dose as patient has no strict indication for full-dose 
aspirin.

#DISCHARGE HEMOGLOBIN: 7.9

#CODE: DNR/DNI (confirmed)
#CONTACT: ___ (son) ___ 

>30 min spent on discharge coordination on day of discharge 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 50 mg PO BID 
2. HydrALAZINE 100 mg PO BID 
3. Ibuprofen 200 mg PO BID 
4. Aspirin 325 mg PO DAILY 
5. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*8 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  Sodium Chloride Nasal ___ SPRY NU BID moisten nasal packing 
RX *sodium chloride [Ocean Nasal] 0.65 % 2 sprays intranasal 
twice a day Disp #*1 Spray Refills:*0 
5.  HydrALAZINE 150 mg PO Q8H 
RX *hydralazine 50 mg 3 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.DME
ROLLING WALKER
ICD-10 code: ___
Length of need: LIFETIME

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Epistaxis

Secondary Diagnoses:
Syncope, likely vasovagal
Bradycardia
anemia
leukocytosis
hypertension
chronic kidney disease
history of TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had a serious nose 
bleed. While you were here, we packed your nose with a special 
material which stopped the bleeding. We did give you two 
transfusions to help replace some of the blood that you lost. 
While you were here, you did not have any more bleeding from 
your nose.

We stopped two of your medications that might have contributed 
to your nose bleed (aspirin and ibuprofen).

While you were here, you did have an episode where you passed 
out in the bathroom. We kept a close eye on your heart, and we 
did not find any reason to think your heart is what caused you 
to pass out. We are sending you home with a heart monitor, which 
will allow for us to see if you have any abnormal heart rhythms 
that happen over the coming weeks. 

We made a few other adjustments to your medications in an effort 
to better control your blood pressure. 

It was a pleasure caring for you,
Your ___ Care Team
 
Followup Instructions:
___